US04944795
A solution of 0.5 g of 2,2-dimethyl-4-methylthio-3-butenoic acid in 20 mL of ethyl acetate was treated with 0.6 g of carbonyldiimidazole, and the solution was heated for 10 minutes at reflux. After the solution had cooled, 0.65 g of p-chloroaniline was added and heating continued for 16 hours. The solution was then cooled, poured into water and extracted into ethyl acetate. The organic layer was washed with 50 mL of 1N HCl, dried over MgSO4, and concentrated. The residual solid was recrystallized from CHCl3 /hexane to give 0.27 g of N-(4-chlorophenyl)-2,2-dimethyl-4-(methylthio)-3-butenamide, m.p. 105°-106° C.

reactant | 2,2-dimethyl-4-methylthio-3-butenoic acid | 0.5 g | CC(C(=O)O)(C=CSC)C | C7H12O2S
reactant | carbonyldiimidazole | 0.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | p-chloroaniline | 0.65 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | water | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-chlorophenyl)-2,2-dimethyl-4-(methylthio)-3-butenamide | 0.27 g | ClC1=CC=C(C=C1)NC(C(C=CSC)(C)C)=O | C13H16ClNOS
